US07462647B2
Methanesulfonic acid 4,4,5,5,5-pentafluoro-pentylester
Dissolve 4,4,5,5,5-pentafluoropentanol (8.27 g, 46.42 mmol) in CH2Cl2 (100 mL) and cooled the solution to 0° C. Add triethylamine (20.00 mL, 143.49 mmol), followed by the drop wise addition of methanesulfonyl chloride (4.40 mL, 56.84 mmol). Stir the solution for 45 minutes, then pour into HCl (0.5 N, 100 mL). Wash the organic layer with HCl (0.5 N, 2×100 mL). Dry the organic layer (Na2SO4), filter, and concentrate in vacuo. Recovered 11.48 g (96%) of the desired methanesulfonic acid 4,4,5,5,5-pentafluoro-pentylester as a light yellow oil. 1H NMR (400 MHz, CDCl3): δ 4.31 (t, J=6.0 Hz, 2H), 3.03 (s, 3H), 2.2 (m, 2H), 2.08 (m, 2H).

reactant | 4,4,5,5,5-pentafluoropentanol | 46.42 mmol, 8.27 g | FC(CCCO)(C(F)(F)F)F | C5H7F5O
reactant | triethylamine | 143.49 mmol, 20.00 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 56.84 mmol, 4.40 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 0.5 N, 100 mL | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 4,4,5,5,5-pentafluoro-pentylester | FC(CCCOS(=O)(=O)C)(C(F)(F)F)F | C6H9F5O3S
